US07846925B2
To a solution of 4-nitro isophthalic acid (98 g, 0.457 mol) in methanol (5 L) was added Pd/C (20%) and hydrogenated at RT for 4 h. The reaction mixture was filtered through celite and filtrate concentrated under vacuum to give 4-amino isophthalic acid (72 g, 87%) as a solid.

reactant | 4-nitro isophthalic acid | 0.457 mol, 98 g | [N+](=O)([O-])C1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H5NO6
solvent | methanol | 5 L | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 4-amino isophthalic acid | 72 g, 87% | NC1=C(C=C(C(=O)O)C=C1)C(=O)O | C8H7NO4
